US05952335
5-[2-(Dimethylamino)ethyl]-11-(4-methylbenzenesulfonamido)-4H-benzo[c]pyrimido[5,6,1-jk]carbazole-4,6(5H)-dione hydrochloride
The compound of Production Example 24 was treated in the same manner as the one of Production Example 3 to thereby give N-[2-(dimethylamino)ethyl]-3-(4-methylbenzenesulfonamido)-7H-benzo[c]carbazole-8-carboxamide. Then this product was reacted with sodium hydride and ethyl chloroformate in dimethylformamide under ice-cooling to thereby give 5-[2-(dimethylamino)ethyl]-11-(N-etoxycarbonyl-4-methylbenzenesulfonamido)-4H-benzo[c]pyrimido[5,6,1-jk]carbazole-4,6(5H)-dione. Next, this product was treated with a 1 N aqueous solution of sodium hydroxide in a mixture of methanol with tetrahydrofuran (1:1) and then converted into the hydrochloride in a conventional manner followed by recrystallization from ethanol to thereby give the title compound.

reactant | N-[2-(dimethylamino)ethyl]-3-(4-methylbenzenesulfonamido)-7H-benzo[c]carbazole-8-carboxamide | CN(CCNC(=O)C=1C=CC=C2C=3C4=C(C=CC3NC12)C=C(C=C4)NS(=O)(=O)C4=CC=C(C=C4)C)C | C28H28N4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 5-[2-(dimethylamino)ethyl]-11-(N-etoxycarbonyl-4-methylbenzenesulfonamido)-4H-benzo[c]pyrimido[5,6,1-jk]carbazole-4,6(5H)-dione | CN(CCN1C(N2C3=C(C=CC=C3C=3C4=C(C=CC23)C=C(C=C4)N(S(=O)(=O)C4=CC=C(C=C4)C)C(=O)OCC)C1=O)=O)C | C32H30N4O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-[2-(Dimethylamino)ethyl]-11-(4-methylbenzenesulfonamido)-4H-benzo[c]pyrimido[5,6,1-jk]carbazole-4,6(5H)-dione hydrochloride | Cl.CN(CCN1C(N2C3=C(C=CC=C3C=3C4=C(C=CC23)C=C(C=C4)NS(=O)(=O)C4=CC=C(C=C4)C)C1=O)=O)C | InChI=1S/C29H26N4O4S.ClH/c1-18-7-11-21(12-8-18)38(36,37)30-20-10-13-22-19(17-20)9-14-25-26(22)23-5-4-6-24-27(23)33(25)29(35)32(28(24)34)16-15-31(2)3;/h4-14,17,30H,15-16H2,1-3H3;1H
